US07579341B2
15c) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-ethoxycarbonylmethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 9 from 100 mg (0.17 mmol) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 48 mg (0.19 mmol) ethyl[4,4′]bipiperidinyl-1-yl-acetate.

reactant | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.17 mmol, 100 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@H](CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C(=O)O)C1 | C26H28ClF3N4O6
reactant | ethyl[4,4′]bipiperidinyl-1-yl-acetate | 0.19 mmol, 48 mg | C(C)OC(CN1CCC(CC1)C1CCNCC1)=O | C14H26N2O2
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-(1′-ethoxycarbonylmethyl-4,4′-bipiperidinyl-1-yl)-2-oxo-ethyl 4-(7-methoxy-2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | COC=1C=CC2=C(CCN(C(N2)=O)C2CCN(CC2)C(=O)O[C@@H](C(=O)N2CCC(CC2)C2CCN(CC2)CC(=O)OCC)CC2=CC(=C(C(=C2)C(F)(F)F)N)Cl)C1 | C40H52ClF3N6O7
